US08119259B2
[Step 2: Synthesis of 2-(4-bromophenyl)benzoxazole]
In a 300 mL three-necked flask were placed 5.3 g (18 mmol) of 4-bromo-N-(2-hydroxyphenyl)benzamide, 8.0 g (46 mmol) of p-toluenesulphonic acid monohydrate, and 200 mL of toluene. This mixture was refluxed for 4 hours under nitrogen stream. After a predetermined time, water was added to the mixture that had been refluxed, and an aqueous layer and an organic layer were separated in the mixture. Then, an organic substance was extracted from the aqueous layer with ethyl acetate. The extract and the organic layer were neutralized together with a saturated aqueous sodium hydrogen carbonate solution, and washed with a saturated aqueous sodium chloride solution. Then, the organic layer was dried over magnesium sulfate. This mixture was subjected to suction filtration through Celite (produced by Wako Pure Chemical Industries, Ltd., Catalog No. 531-16855), and the filtrate was concentrated to obtain a solid. The obtained solid was recrystallized with ethyl acetate/hexane, so that 3.1 g of target white powder was obtained with a yield of 61%.

reactant | 4-bromo-N-(2-hydroxyphenyl)benzamide | 18 mmol, 5.3 g | BrC1=CC=C(C(=O)NC2=C(C=CC=C2)O)C=C1 | C13H10BrNO2
reactant | p-toluenesulphonic acid monohydrate | 46 mmol, 8.0 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-(4-bromophenyl)benzoxazole | BrC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | C13H8BrNO
